US06380387B1
To a suspension of 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt (0.5 mmol, 184 mg), HBTU (0.7 mmol, 265 mg) and 2-chloro-6-ethylbenzoic acid (0.7 mmol, 129 mg) in DMF (2 mL) was added diisopropylethylamine (1.25 mmol, 0.22 mL) at room temperature. After 5 min, everything went into solution and the clear yellow solution was stirred for 15 h at room temperature. The resulting dark-brown solution was diluted with ethyl acetate (30 mL). The ethyl acetate layer was washed successively with 1N hydrochloric acid (2×30 mL), saturated sodium bicarbonate solution (30 mL), and brine solution (30 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave the crude product which was purified by silica gel column chromatography using a Biotage (40m) column to afford 175 mg (70% yield) of N-[(2-chloro-6-ethylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C26H28ClN3O5 (M+Na) 520.1611, found 520.1613.

reactant | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt | 0.5 mmol, 184 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O
reactant | HBTU | 0.7 mmol, 265 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-chloro-6-ethylbenzoic acid | 0.7 mmol, 129 mg | ClC1=C(C(=O)O)C(=CC=C1)CC | C9H9ClO2
reactant | diisopropylethylamine | 1.25 mmol, 0.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2-chloro-6-ethylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 175 mg, 70% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1CC)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C26H28ClN3O5
